US07514447B2
[4-(3-Diethylamino-propyl)-phenyl]-[5-(4-methoxy-phenyl)-pyrimidin-2-yl]-amine
N,N-Diethyl-3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionamide (0.1 mmol) is heated at reflux with lithium alluminium hydride in THF (1.0 M, 1.0 mmol) for 4 h. MeOH is added at rt to quench the reaction. Purification by preparative LCMS affords the title compound. 1H NMR (400 MHz, CDCl3) δ 12.4 (s, 1H), 8.62 (s, 2H), 8.59 (s, 1H), 7.61 (d, J=8.3 Hz, 2H), 7.43 (d, J=8.6 Hz, 2H), 7.17 (d, J=8.2 Hz, 2H), 7.02 (d, J=8.6 Hz, 2H), 3.86 (s, 3H), 3.1 (m, 4H), 3.96 (s, 1H), 3.0 (m, 2H), 2.71 (t, J=7.2, 2H), 2.06 (m, 2H), 1.27 (t, J=7.3 Hz, 6H). MS (m/z) (M+1)+ 391.2.

reactant | N,N-Diethyl-3-{4-[5-(4-methoxy-phenyl)-pyrimidin-2-ylamino]-phenyl}-propionamide | 0.1 mmol | C(C)N(C(CCC1=CC=C(C=C1)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC)=O)CC | C24H28N4O2
reactant | lithium | [Li] | Li
reactant | THF | 1.0 mmol, 1.0 M | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | [4-(3-Diethylamino-propyl)-phenyl]-[5-(4-methoxy-phenyl)-pyrimidin-2-yl]-amine | C(C)N(CCCC1=CC=C(C=C1)NC1=NC=C(C=N1)C1=CC=C(C=C1)OC)CC | C24H30N4O
